US05288735
Preparation of 2-(Glycylamino)-1,3,4-Thiadiazole-5-Sulfonamide Hydrobromide
The desired compound is prepared by subjecting 2-(N-carbobenzyloxyglycylamino)-1,3,4-thiadiazole-5-sulfonamide (0.5 gram) suspended in glacial acetic acid (5 ml) to a solution of hydrogen bromide in glacial acetic acid (32% w/w, 8.0 ml) at room temperature for 1 hour with stirring. Diethyl ether (50 ml) is then added and the mixture set aside for three hours at 0° C. The solid precipitate is collected, washed with diethyl ether, and dried to give the desired product, 2-(glycylamino)-1,3,4-thiadiazole-5-sulfonamide hydrobromide, m.p. 207°-209° C. (0.4 gram).

reactant | 2-(N-carbobenzyloxyglycylamino)-1,3,4-thiadiazole-5-sulfonamide | 0.5 gram | C(=O)(OCC1=CC=CC=C1)NCC(=O)NC=1SC(=NN1)S(=O)(=O)N | C12H13N5O5S2
reactant | hydrogen bromide | Br | BrH
reactant | Diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8.0 ml | C(C)(=O)O | C2H4O2
product | 2-(glycylamino)-1,3,4-thiadiazole-5-sulfonamide hydrobromide | Br.NCC(=O)NC=1SC(=NN1)S(=O)(=O)N | InChI=1S/C4H7N5O3S2.BrH/c5-1-2(10)7-3-8-9-4(13-3)14(6,11)12;/h1,5H2,(H2,6,11,12)(H,7,8,10);1H
